US04663319
A solution of ethyl[N-(p-(N-benzyloxycarbonylamino)benzyl)-N-(methoxycarbonylethyl)carbamoyl]acetate (967 mg) in benzene (15 ml) is added dropwise to a solution of sodium ethoxide (prepared from sodium (60 mg) and ethanol (2 ml)) at room temperature. The mixture is stirred at the same temperature for 30 minutes. The mixture is poured into water. The aqueous solution is neutralized with 10% HCl, and extracted with ethyl acetate. The extract is washed with a saturated sodium chloride solution, dried and then distilled to remove the solvent to give ethyl 1-(p-(N-benzyloxycarbonylamino)-benzyl)-2,4-dioxopiperidine-3-carboxylate (841 mg, 93.5%) as colorless oil.

reactant | ethyl[N-(p-(N-benzyloxycarbonylamino)benzyl)-N-(methoxycarbonylethyl)carbamoyl]acetate | 967 mg | C(C)OC(CC(N(CCC(=O)OC)CC1=CC=C(C=C1)NC(=O)OCC1=CC=CC=C1)=O)=O | C24H28N2O7
reactant | sodium ethoxide | 2 ml, 60 mg | [O-]CC.[Na+]
reactant | water | O | H2O
reactant | HCl | Cl | ClH
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | ethyl 1-(p-(N-benzyloxycarbonylamino)-benzyl)-2,4-dioxopiperidine-3-carboxylate | 841 mg, 93.5% | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(CN2C(C(C(CC2)=O)C(=O)OCC)=O)C=C1 | C23H24N2O6
